US09428483B2
(2) (1S,2S,3S,5R,6S)-2-Amino-6-(((3,5-dimethyladamantane-1-carbonyl)oxy)ethoxy)carbonyl-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid (A-5)
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 500 mg) and 1-chloroethyl 3,5-dimethyladamantane-1-carboxylate (A-5-1, 1.13 g) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (A-5, 70 mg) as a colorless solid.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 500 mg | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | 1-chloroethyl 3,5-dimethyladamantane-1-carboxylate | 1.13 g | CC12CC3(CC(CC(C1)(C3)C)C2)C(=O)OC(C)Cl | C15H23ClO2
product | (1S,2S,3S,5R,6S)-2-Amino-6-(((3,5-dimethyladamantane-1-carbonyl)oxy)ethoxy)carbonyl-3-fluorobicyclo[3.1.0]hexane-2-carboxylic acid | 70 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OCCOC(=O)C12CC3(CC(CC(C1)C3)(C2)C)C)C(=O)O | C23H32FNO6
